data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7369,"CCN(CC)C(C)[N:1](C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9952,"C[C:1]1=[CH:2]C=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,1082,"COC(C)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4092,"N#C[CH-:1]C#N.[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9056,"C[Si](C)(C)C[CH2:1][O:2][CH:3]=[OH+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,328,"C=C1CCCCC12C1CCCCC1[O][Mg:1][CH2:2]2.O=[C:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5124,"C1=CC=CC=C1.CC(CC[C:1](C1=C(Br)C=CC=C1)=[OH+:2])=[O:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5707,"O=S(=O)(O)[O-:1].ON=[N+:2](CC1CC1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9792,"O=S(=O)(O)[O:1][H:2].OC1(O)CCC[O:3]1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6664,"C#CCC1=C([NH:1][N:2]=[O:3])C=CC=C1.[H:4][Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5740,"CC1=CC=C([S:1](=O)(Cl)=[O:2])C=C1.CCC(C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4537,"CC(C)(C)OC(=O)NCC(=O)[O-].CC(C)NC(=O)NC(C)C.CCC1([O+:1](C([O-])(CNC(=O)OC(C)(C)C)[N+]2=CC=C(N(C)C)C=C2)[H:2])C(=O)OCC2=C1C=C1C3=C(C=C4C=CC=CC4=N3)CN1C2=O.CN(C)C1=CC=[N:3]C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,97,"C1CCC(=[O:1])CC1.CC(=O)OC1(C(C)=O)CCC2C3CC=C4CC([O][Al:2]([O]C(C)C)[O]C(C)C)CCC4(C)C3CCC21C.CC(C)O.CC(C)[O-]|(1, 2)"
train,pmechdb_split_0,0,2791,"CCCC(CC(=O)OC(C)(C)C)C[O-:1].C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6185,"C[N:1](C)[S:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,428,"CCCCCCC1CCC(O[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[N:2](NC(=O)OCC)[C:3](OCC)=[OH+:4])C(=O)O1.O=C([O-])C1=CC=C(CBr)C=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7106,"CCNC[CH:1]=[CH:2][OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3613,"C[CH:1]([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1080,"CO[CH:1]([NH+:2](C)C)[O:3]C.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3727,"C1=CC2=C(C=C1)[C:1](=[OH+:2])[CH:3]([H:4])N2.C[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2614,"CCCC1=C(CC[NH+:1]=[C:2](CC)OP(=O)(Cl)Cl)[CH:3]=[C:4]([O:5]C)C(OC)=C1.[Cl-]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2140,"C1=CC=[N:1]C=C1.CC(=O)[O-].COC1=C(C(C)C)C(OC)=C(C(C2=C(C)CCCC2(C)C)[O+:2](I2(OC(C)=O)(OC(C)=O)OC(=O)C3=C2C=CC=C3)[H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4364,"C=CC(=O)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7801,"C1C[NH:1]CCO1.COC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6239,"CC(=O)O.CC(=O)O[I:1]1(OC2CCC3(C)C(CCC4CC5CC43CCC5O)C2(C)C)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,8015,"C[N:1]1CC[O+:2]([B-](F)(F)F)[C:3]1(C)C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6053,"CCCC[C:1]1=[CH:2]C2=C(C=CC=C2)[NH:3]1.[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6783,"CO[C:1]([CH:2](CC12C3NC4C(CCC45CCCC51)C2(C)CCC3C(C)C)[H:3])=[O+:4][Li-][N:5](C(C)C)C(C)C|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8630,"C[CH+:1]C.N#CC1=CC=C2C(=C1)C=C[CH:2]=[CH:3]2|((2, 3), 1)"
train,pmechdb_split_0,0,7880,"CC1=C(C#N)C(=O)N2CC[C:1]([OH2+:2])([O:3]CCO)C2=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3519,"C1CC1C[NH+:1]([H:2])[N:3]=[O:4].O=S(=O)(O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4162,"O=C(O[C:1]([CH:2](C(=O)CC1=CC=CC=C1)[H:3])=[O:4])C1=CC=CC=C1.[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6399,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[CH:1](C[S:2]C1=CC=CC=C1)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9706,"CC#N.CCOCC.F[B:1](F)F.O=C1CC(O)C([OH:2])N1CC1=CC=CC=C1|(2, 1)"
train,pmechdb_split_0,0,1363,"C=CC(C)=O.CO[C:1]([C:2]1=[CH:3][CH:4]([H:5])CC(C2=CC=CC=C2)CC1=O)=[O:6].C[O-:7].[H][H].[Na+]|(7, 5);((5, 4), 3);((3, 2), 1);((1, 6), 6)"
train,pmechdb_split_0,0,6041,"Cl[C:1](OCCC[NH2:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5291,"CC(C)[O][Al:1]([O]C(C)C)[O]C(C)C.CC12CCC3C(CC=C4CC([OH:2])CCC43O)C1CCC2=O.CN1CCC(=O)CC1|(2, 1)"
train,pmechdb_split_0,0,5722,"C1=CC=C(CC[CH:1]=[CH2:2])C=C1.[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8803,"C[C+](C)C.O=C(NC1CCCC1)C(CC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7336,"C[C:1](C1=C(O)C=CC=C1)([NH:2]CCO)[OH:3].NCCO|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2779,"[AlH3:1].[O-]CCC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,929,"C=CC(O)(OC(C)=O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4154,"CC[OH:1].C[C+:2](C)Br|(1, 2)"
train,pmechdb_split_0,0,9488,"CC[O:1][CH:2](C)[NH2+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9661,"CCOC(=O)N[N-:1]C(=O)OCC.COC1=CC(OC)=C2C(=C1)C=C(CO[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(Br)=C2OC.COC1=CC(OC)=C2C(=C1)C=C(OCC1=CC=CC=C1)C(C(=O)[O:2][H:3])=C2OC|(1, 3);((3, 2), 2)"
